US07772246B2
To a solution of 5-bromo-3-methyl-1H-pyrrolo[2,3-b]pyridine (B-6-1) (1.2 g, 5.68 mmol) in THF (30 mL) was added NaH (0.34 g, 8.5 mmol) under N2 at 0° C., 4-bromophenylsulfonyl chloride (1.2 g, 6.8 mmol) was added 30 minutes later. The mixture was stirred at room temperature for 1.5 h. TLC (Petroleum ether: EtOAc=5:1) showed that the reaction was complete. Saturated aqueous NaCl (10 mL) was added, and the mixture was filtered to give 5-bromo-3-methyl-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (B-6-2) (0.8 g) as a white solid. The organic layer was separated from the filtrate, concentrated to 8 mL, then filtered to give 5-bromo-1-(4-bromophenylsulfonyl)-3-methyl-1H-pyrrolo[2,3-b]pyridine (0.5 g). Two batches were combined to give 5-bromo-3-methyl-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (B-6-2) (1.3 g, 65.2%) as a white solid.

reactant | 5-bromo-3-methyl-1H-pyrrolo[2,3-b]pyridine | 5.68 mmol, 1.2 g | BrC=1C=C2C(=NC1)NC=C2C | C8H7BrN2
reactant | NaH | 8.5 mmol, 0.34 g | [H-].[Na+]
reactant | 4-bromophenylsulfonyl chloride | 6.8 mmol, 1.2 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | NaCl | 10 mL | [Na+].[Cl-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-bromo-3-methyl-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.8 g | BrC=1C=C2C(=NC1)N(C=C2C)S(=O)(=O)C2=CC=CC=C2 | C14H11BrN2O2S
